US07199239B2
Intermediate 56: 3-Bromo-2-methyl-N-propylaniline
To a solution of 3-bromo-2-methylphenylamine (1.5 g, 8.06 mmol) in dry CH2Cl2 with 3A molecular sieves was added propionaldehyde (580 μL, 8.06 mmol) and the resultant mixture stirred at room temperature for 20 min under nitrogen. Acetic acid (561 μL, 8.06 mmol) and sodium triacetoxyborohydride (4.78 g, 22.56 mmol) were added and the resultant mixture stirred under nitrogen at room temperature for 16 h. Saturated sodium bicarbonate (60 mL) was added portionwise and the resultant mixture stirred for 0.5 h and extracted with CH2Cl2 (2×100 mL). The organic solution was dried (Na2SO4) and the solvents removed in vacuo to afford the title compound as a yellow oil (1.8 g).

reactant | 3-bromo-2-methylphenylamine | 8.06 mmol, 1.5 g | BrC=1C(=C(C=CC1)N)C | C7H8BrN
reactant | propionaldehyde | 8.06 mmol, 580 μL | C(CC)=O | C3H6O
reactant | Acetic acid | 8.06 mmol, 561 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 22.56 mmol, 4.78 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 60 mL | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-Bromo-2-methyl-N-propylaniline | 1.8 g | BrC=1C(=C(NCCC)C=CC1)C | C10H14BrN
